US08748466B2
Ethyl 5-(hydroxyimino)-2-methyl-2-(methylsulfonyl)pentanoate
Sodium bicarbonate (2.29 g, 27.3 mmol, 1.05 equiv) was added to a solution of hydroxylamine hydrochloride (1.94 g, 27.3 mmol, 1.05 equiv) in water (100 mL) at room temperature. After the evolution of gas ceased (approx. 30 min), a solution of ethyl 2-methyl-2-(methylsulfonyl)-5-oxopentanoate (6.14 g, 26.0 mmol, 1.0 equiv) in ethanol (100 mL) was added dropwise over 30 min, and the reaction was allowed to stir overnight (approx. 15 h). The reaction mixture was concentrated under reduced pressure to half the volume (approx. 100 mL) and partitioned between dichloromethane (200 mL) and water (100 mL). The aqueous phase was extracted with dichloromethane (100 mL). The combined organic phases were dried over anhydrous magnesium sulfate and concentrated under reduced pressure to provide the title compound (6.4 g, 97%, approx. 1:1 mixture of E/Z isomers). MS (LCMS) m/z 252.1 (M+1). 1H NMR (400 MHz, CHLOROFORM-d) δ1.34 (td, J=7.12, 1.17 Hz, 6H) 1.56-1.72 (m, 6H) 2.11-2.19 (m, 2H) 2.19-2.29 (m, 1H) 2.44 (d, J=3.71 Hz, 4H) 2.51-2.63 (m, 1H) 3.06 (d, J=2.93 Hz, 6H) 4.30 (qd, J=7.12, 3.22 Hz, 4H) 6.66-6.88 (m, 1H) 7.43 (d, J=5.07 Hz, 1H).

reactant | Sodium bicarbonate | 27.3 mmol, 2.29 g, 1.05 equiv | C([O-])(O)=O.[Na+]
reactant | hydroxylamine hydrochloride | 27.3 mmol, 1.94 g, 1.05 equiv | Cl.NO
reactant | ethyl 2-methyl-2-(methylsulfonyl)-5-oxopentanoate | 26.0 mmol, 6.14 g, 1.0 equiv | CC(C(=O)OCC)(CCC=O)S(=O)(=O)C | C9H16O5S
solvent | water | 100 mL | O | H2O
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | Ethyl 5-(hydroxyimino)-2-methyl-2-(methylsulfonyl)pentanoate | 6.4 g, 97% | ON=CCCC(C(=O)OCC)(S(=O)(=O)C)C | C9H17NO5S
